US05318983
A suspension of NaH (80% in paraffin) (3.97 g; 0.165 moles) in anhydrous ethyl ether (100 ml), maintained under nitrogen stream, is dropwise added with a solution of 3-(4-chlorophenyl)-1-phenyl-2-propen-1-one (18.11 g; 0075 moles) and tosylmethylisocianide (TOSMIC) (14.60 g; 0.075 moles) in anhydrous dimethylsulfoxide (170 ml) diluted with anhydrous ethyl ether (300 ml). Upon the additions are completed, the mixture is maintained under stirring at room temperature for 3 hours. After dilution with water (800 ml) the precipitate is filtered, washed with absolute ethanol and lastly with petroleum ether. There are obtained 10.40 g (yield 49.4%) of 4-benzoyl-3-(4-chlorophenyl)-1H-pyrrole, which is crystallized from N,N-dimethylformamide and water (m.p.: 232°-235° C.).

reactant | NaH | 0.165 moles, 3.97 g | [H-].[Na+]
reactant | 3-(4-chlorophenyl)-1-phenyl-2-propen-1-one | 18.11 g | ClC1=CC=C(C=C1)C=CC(=O)C1=CC=CC=C1 | C15H11ClO
reactant | TOSMIC | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | dimethylsulfoxide | 170 ml | CS(=O)C | C2H6OS
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
product | 4-benzoyl-3-(4-chlorophenyl)-1H-pyrrole | 10.40 g, yield 49.4% | C(C1=CC=CC=C1)(=O)C=1C(=CNC1)C1=CC=C(C=C1)Cl | C17H12ClNO
